US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (511 mg: 0.5 mMol.) in a mixture of dichloromethane (10 ml) and methanol (10 ml) is added m-chloroperbenzoic acid (purity: 80%: 54 mg: 0.25 mMol.) at -30° C., and the mixture is stirred for 1 hour. The reaction mixture is diluted with aqueous 5% sodium thiosulfate and extracted with ethyl acetate. The extract solution was washed with aqueous sodium hydrogencarbonate, diluted hydrochloric acid, and brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (toluene-ethyl acetate=2:1 to 1:1) to give 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide (232 mg). Yield: 45%. A part of the starting material (236 mg: 48%) was recovered.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.5 mMol, 511 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC=2N=NNC2 | C52H46N8O6S4
reactant | m-chloroperbenzoic acid | 0.25 mMol, 54 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester 1-oxide | 232 mg, Yield: 45% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS([C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)=O)CSC=2N=NNC2 | C52H46N8O7S4
